US05932736
1 mole of aniline was dissolved in 200 mL acetonitrile, and 0.7 mole 1,3-dichloropropene was added. The reaction was heated to reflux overnight with mechanical stirring. The reaction was then filtered and concentrated. Upon distillation, N-(3-chloro-2-propenyl)aniline was obtained as a yellow solid. The main distillation cut contained 65% N-(3-chloro-2-propenyl)aniline by weight.

reactant | aniline | 1 mole | NC1=CC=CC=C1 | C6H7N
reactant | 1,3-dichloropropene | 0.7 mole | ClC=CCCl | C3H4Cl2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | N-(3-chloro-2-propenyl)aniline | ClC=CCNC1=CC=CC=C1 | C9H10ClN
